US07259175B2
To a suspension of 5-chloromethyl-4-methyl-2-(4-trifluoromethyl-phenyl)-oxazole (0.10 g, 0.36 mmol) and Cs2CO3 (0.24 g, 0.72 mmol) in 2 mL acetonitrile is added (4-hydroxy-2-propyl-phenoxy)-acetic acid ethyl ester (0.09 g, 0.38 mmol). The solution is stirred for 6 hrs and poured into water (10 mL) and extracted with ethyl acetate (3×15 mL). The combined organics are washed with water (10 mL) and brine (10 mL), dried (Na2SO4), filtered and concentrated in vacuo. The crude product is purified using flash column chromatography (20% ethyl acetate/hexanes) to afford 0.13 g (85%) desired {4-[4-Methyl-2-(4-trifluoromethyl-phenyl)-oxazol-5-ylmethoxy]-2-propyl-phenoxy}-acetic acid methyl ester. This ester is hydrolyzed in the usual way using 0.14 g ester and 3 eq. 1M LiOH in 3 mL 3:2:1 THF:MeOH:H2O to afford 0.16 g (95%) of the title compound.

reactant | 5-chloromethyl-4-methyl-2-(4-trifluoromethyl-phenyl)-oxazole | 0.36 mmol, 0.10 g | ClCC1=C(N=C(O1)C1=CC=C(C=C1)C(F)(F)F)C | C12H9ClF3NO
reactant | Cs2CO3 | 0.72 mmol, 0.24 g | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | (4-hydroxy-2-propyl-phenoxy)-acetic acid ethyl ester | 0.38 mmol, 0.09 g | C(C)OC(COC1=C(C=C(C=C1)O)CCC)=O | C13H18O4
reactant | water | 10 mL | O | H2O
solvent | acetonitrile | 2 mL | C(C)#N | C2H3N
product | {4-[4-Methyl-2-(4-trifluoromethyl-phenyl)-oxazol-5-ylmethoxy]-2-propyl-phenoxy}-acetic acid methyl ester | 0.13 g, 85% | COC(COC1=C(C=C(C=C1)OCC1=C(N=C(O1)C1=CC=C(C=C1)C(F)(F)F)C)CCC)=O | C24H24F3NO5
